* Title: Simple circuit made with battery and a resistor

Vin a 0 5V
R1 a 0 10

.control

op *Compute operating point (current and voltage)

print all

.endc